US07777047B2
N-methyl-N-{2-[5-(2-oxopropyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
N-Methoxy-N-methyl-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide (0.20 g) was dissolved in absolute tetrahydrofuran (20 mL), and a 12% methylmagnesium bromide tetrahydrofuran solution (1.4 mL) was added under ice-cooling. The mixture was stirred at 10° C. for 5 hr under ice-cooling, acidified with aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=35:65-50:50), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (121 mg, yield: 67%) as colorless crystals.

reactant | N-Methoxy-N-methyl-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 0.20 g | CON(C(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O)C | C20H22N4O4S3
reactant | methylmagnesium bromide tetrahydrofuran | 1.4 mL | O1CCCC1.C[Mg]Br
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-methyl-N-{2-[5-(2-oxopropyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 121 mg, yield: 67% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(C)=O | C19H19N3O3S3
